US07084139B2
(E)-2-(4-Chloro-3-hydroxyphenyl)-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide
To a solution of (E)-2-(3-{[tert-butyl(diphenyl)silyl]oxy}-4-chlorophenyl)-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide (0.0078 g) in THF (0.3 ml) at −78° C. under nitrogen, tetra n-butylammonium fluoride (1M in THF, 0.014 ml) was added. The mixture was allowed to warm to room tempertaure over 3 days and then concentrated under reduced pressure. The residue was purified using mass directed preparative h.p.l.c. to give the title compound (0.0043 g) as a clear film.

reactant | (E)-2-(3-{[tert-butyl(diphenyl)silyl]oxy}-4-chlorophenyl)-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide | 0.0078 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O | C35H42ClN3O6SSi
reactant | tetra n-butylammonium fluoride | 1M, 0.014 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | (E)-2-(4-Chloro-3-hydroxyphenyl)-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide | 0.0043 g | ClC1=C(C=C(C=C1)/C=C/S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O)O | C19H24ClN3O6S
